US06730668B2
Preparation of 2-(4-Fluorophenyl)-1-(4-morpholin-4-yl-pyrazolidin-1-yl)-ethanone (13):
2-[2-(4-Fluorophenyl)acetyl]-4-morpholin-4-yl-pyrazolidine-1-carboxylic acid benzyl ester HCl salt, 12, (100 mg, 0.2 mmol) is dissolved in methanol and Pd/C (5 mg) is added. The solution is then hydrogenated in a Parr® Hydrogenation Apparatus for 3 days after which time the catalyst is removed by filtration and the filtrate concentrated in vacuo to afford 55 mg (81% yield) of the desired product as a tan solid.

reactant | 2-[2-(4-Fluorophenyl)acetyl]-4-morpholin-4-yl-pyrazolidine-1-carboxylic acid benzyl ester HCl salt | Cl.C(C1=CC=CC=C1)OC(=O)N1N(CC(C1)N1CCOCC1)C(CC1=CC=C(C=C1)F)=O
solvent | methanol | CO | CH4O
catalyst | Pd/C | 5 mg | [Pd] | Pd
product | 2-(4-Fluorophenyl)-1-(4-morpholin-4-yl-pyrazolidin-1-yl)-ethanone | 55 mg, 81% yield | FC1=CC=C(C=C1)CC(=O)N1NCC(C1)N1CCOCC1 | C15H20FN3O2
